US08865732B2
A mixture of 3,6-dihydro-2H-pyran-4-yl trifluoromethanesulfonate (250 mg, 1.1 mmol), bis(pinacolato)diboron (410 mg, 1.6 mmol), and KOAc (323 mg, 3.3 mmol) dioxane (3 mL) was sparged with Ar for 5 min. Then PdCl2dppf.DCM (45 mg, 0.05 mmol) was added and reaction was sparged again with Ar for 5 min. The reaction was sealed and heated to and maintained at 80° C. for overnight. The reaction mixture was allowed to cool rt and was filtered through Celite, washing the filter cake with EtOAc. The combined filtrate was concentrated and the resulting residue was purified by flash chromatography (SiO2, 100:0-80:20 hexanes-EtOAc) to furnish 150 mg of 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane. LCMS (m/z): 211.0 (MH+), tR=0.89 min; 1H NMR (400 MHz, CDCl3) δ 6.48 (br s, 1H); 4.15-4.14 (app dd, J=2.8, 5.6 Hz, 2H); 3.72-3.69 (app t, 5.2, 2H); 2.19-2.17 (m, 2H); 1.22 (s, 12H).

reactant | 3,6-dihydro-2H-pyran-4-yl trifluoromethanesulfonate | 1.1 mmol, 250 mg | FC(S(=O)(=O)OC=1CCOCC1)(F)F | C6H7F3O4S
reactant | bis(pinacolato)diboron | 1.6 mmol, 410 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.3 mmol, 3 mL, 323 mg | CC(=O)[O-].[K+]
reactant | DCM | 0.05 mmol, 45 mg | C(Cl)Cl | CH2Cl2
product | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 150 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
